US07541374B2
The mixture of 3.45 g of 5-bromo-3-t-butyl-1H-1,2,4-triazole, 0.61 g of paraformaldehyde and 0.17 g of triethylamine was stirred at 130 ° C. for 5 hours. After the reaction mixture was cooled to room temperature, acetone was added. The mixture was filtered. Hexane was added to the residue and filtered. The filtrate was concentrated under reduced pressure to obtain 2.88 g of 5-bromo-3-t-butyl-1H-1,2,4-triazole1-ylmethanol.

reactant | 5-bromo-3-t-butyl-1H-1,2,4-triazole | 3.45 g | BrC1=NC(=NN1)C(C)(C)C | C6H10BrN3
reactant | paraformaldehyde | 0.61 g | C=O | CH2O
reactant | triethylamine | 0.17 g | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 5-bromo-3-t-butyl-1H-1,2,4-triazole1-ylmethanol | 2.88 g | BrC1=NC(=NN1CO)C(C)(C)C | C7H12BrN3O
